US08912188B2
To a solution of methyl 2-(4-carbamoylphenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (103 mg, 0.27 mmol) in MeOH (20 mL) was added sodium hydroxide (68 mg, 1.69 mmol) and water (2 mL). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (2 mL) and adjusted to pH 5 with hydrochloric acid (1N). The solids were collected by filtration to afford 2-(4-carbamoylphenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a brown solid (57.9 mg, 58%).

reactant | methyl 2-(4-carbamoylphenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.27 mmol, 103 mg | C(N)(=O)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C21H22N4O3
reactant | sodium hydroxide | 1.69 mmol, 68 mg | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(4-carbamoylphenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 57.9 mg, 58% | C(N)(=O)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C20H20N4O3
